US06506901B2
4-[(2S)-Oxiranylmethoxy]-9-fluorenone
A stirred suspension of hexane washed potassium hydride (0.204 g, 5 mmol) in THF was treated in one portion with 4-hydroxy-9-fluorenone (1.0 g, 5.1 mmol). To the purple suspension was added (S)-glycidyl nosylate (1.0 g, 5 mmol) and the mixture was stirred at ambient temperature overnight. The reaction was partitioned with EtOAc. The organic phase was washed with H2O, brine and dried (Na2SO4). The solvent was removed in vacuo to provide crude product. Purification by flash chromatography (CH2Cl2-hexane 3:1) provided 0.210 g of product as a yellow solid.

reactant | hexane | CCCCCC | C6H14
reactant | potassium hydride | 5 mmol, 0.204 g | [H-].[K+]
reactant | 4-hydroxy-9-fluorenone | 5.1 mmol, 1.0 g | OC1=CC=CC=2C(C3=CC=CC=C3C12)=O | C13H8O2
reactant | (S)-glycidyl nosylate | 5 mmol, 1.0 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
solvent | THF | C1CCOC1 | C4H8O
product | 4-[(2S)-Oxiranylmethoxy]-9-fluorenone | 0.210 g | O1[C@@H](C1)COC1=CC=CC=2C(C3=CC=CC=C3C12)=O | C16H12O3
